US07282588B2
2-[ethyl({4-[4-[1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-indol-2-yl]phenyl}methyl)amino]ethanol
Following the procedure described for Intermediate 101 using 4-[4-[1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-indol-2-yl]benzaldehyde and 2-(ethylamino)ethanol (18.8 mmol) provided the title compound. ESMS [M+H]+: 665.4.

reactant | 4-[4-[1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-indol-2-yl]benzaldehyde | CC(C)N1N=C(C(=C1)C1=C2C=C(N(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=O)C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C33H26N4O5S
reactant | 2-(ethylamino)ethanol | 18.8 mmol | C(C)NCCO | C4H11NO
product | 2-[ethyl({4-[4-[1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-indol-2-yl]phenyl}methyl)amino]ethanol | C(C)N(CCO)CC1=CC=C(C=C1)C=1N(C2=CC=CC(=C2C1)C=1C(=NN(C1)C(C)C)C1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1 | C37H37N5O5S
